* ===========================================================================
* qal_hop_probe.cir -- one inductive bank-to-bank hop through qal_hop, against
* the MEASURED per-hop delivery loss of qal_trackC.py:32.
*
* This is a direct re-build of the transistor/B-source reference deck
* qal_trackC_hop.cir with ONE substitution: its time-driven behavioural switch
*     Bsw mab B I={ (0.5*(1+tanh((TIME-8p)/TAU))/RON)*(V(mab)-V(B)) }
* is replaced by the qal_hop Verilog-A cell driven by a control ramp, so the
* freeze phasing lives in this deck (VCTL) rather than inside the model.
* L, the damping R, and the bank caps stay netlist elements -- a Verilog-A
* inductor does not compile under PyMS (see qal_hop.va).
*
* MEASURED TARGET (qal_trackC.py:32), loss per hop vs total series R, where
* loss = 1/2 C (dV^2 - VAmin^2 - VBpk^2) / (1/2 C dV^2) = 1 - (VAmin^2+VBpk^2)/dV^2:
*     R(ohm)  Q     loss/hop
*       15   31.6     6.8%
*       30   19.8     9.2%
*       60   11.3    13.6%     (REAL SG13G2 w=10u)
*       90    7.9    17.4%
*      150    4.9    24.0%
* T6 wants these reproduced within 2 percentage points ABSOLUTE.
*
* AMBIGUITY IN THE REFERENCE, STATED NOT HIDDEN: qal_trackC.py:10-11 says the loss
* is plotted against "total series R (Ron + inductor R~10)", but the reference deck
* qal_trackC_hop.cir:2,6 sets RON=60 AND Rlab=10 (total 70) while the table's row
* for the real w=10u device is labelled R=60. So it is not certain whether the
* table's R column is Ron alone or Ron+RL. run_hop_probe.py sweeps the TOTAL series
* resistance (setting RON = R - RL) and says so; if the reference meant Ron alone,
* every modelled point shifts by the one 10-ohm step.
*
* Deck rules: absolute .hdl path, UIC, source names distinct from node names,
* no '$' comments on .measure lines.
* ===========================================================================
.hdl "/usr/local/src/stat-sim/qal/va/qal_hop.va"

.OPTIONS TIMEINT METHOD=GEAR RELTOL=1e-7 ABSTOL=1e-16 CHGTOL=1e-18

.param DV=0.6 CB=80f LH=25n RL=10 RONSW=60

.model hm qal_hop RON={RONSW} VON=0.6 VTAU=0.15 CJ=0f GM0=1e-12 ESCALE=1e15

C1 a 0 {CB}
C2 b 0 {CB}
Lab  a   xab {LH}
Rlab xab mab {RL}
Cmab mab 0 2f

* the freeze switch: closed from ~8ps (same instant as the reference deck's tanh)
VCTL ctl 0 PWL(0 0 6p 0 10p 1.2 200p 1.2)
YQAL_HOP H1 mab b ctl 0 ed 0 hm

.IC V(a)={DV} V(b)=0 V(mab)={DV}
.tran 0.05p 130p UIC

.measure tran VBPK  MAX V(b)
.measure tran VAMIN MIN V(a) FROM=50p TO=130p
.measure tran ESWL  FIND V(ed) AT=130p

.end
